US05686622
Methyl (2S,3S) 3-amino-2-mercapto-3-(2-fluorophenyl)propionate hydrochloride may be prepared in a similar manner to that described in Example 1E, but starting with 8.2 g of methyl (2RS,3S)-3-tert-butoxycarbonylamino-2-mercapto-3-(2-fluorophenyl)propionate and 20 ml of a methanolic 5N solution of hydrochloric acid. Stirring is continued for 3 h at a temperature in the region of 20° C. and the reaction medium is then concentrated to dryness under reduced pressure at 30° C. The residue obtained is beaten in 20 ml of ethyl acetate. The solid obtained is separated out by filtration and air-dried. 2.3 g of methyl (2S,3S) 3-amino-2-mercapto-3-phenylpropionate hydrochloride are thus obtained in the form of a white solid melting at 172° C. After evaporation of the filtrate, 1.8 g of methyl (2RS,3S)-3-amino-2-mercapto-3-phenylpropionate hydrochloride are also isolated, in the form of a white solid which is used without further purification in the subsequent syntheses.

reactant | Methyl (2S,3S) 3-amino-2-mercapto-3-(2-fluorophenyl)propionate hydrochloride | Cl.N[C@H]([C@@H](C(=O)OC)S)C1=C(C=CC=C1)F
reactant | methyl (2RS,3S)-3-tert-butoxycarbonylamino-2-mercapto-3-(2-fluorophenyl)propionate | 8.2 g | C(C)(C)(C)OC(=O)N[C@H](C(C(=O)OC)S)C1=C(C=CC=C1)F | C15H20FNO4S
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | methyl (2S,3S) 3-amino-2-mercapto-3-phenylpropionate hydrochloride | 2.3 g | Cl.N[C@H]([C@@H](C(=O)OC)S)C1=CC=CC=C1 | InChI=1S/C10H13NO2S.ClH/c1-13-10(12)9(14)8(11)7-5-3-2-4-6-7;/h2-6,8-9,14H,11H2,1H3;1H/t8-,9-;/m0./s1
